US07955664B2
10.2 g (38.9 mmol) of triphenylphosphine are suspended in 80 ml of acetonitrile, and 2.0 ml (39.0 mmol) of bromine are added dropwise with ice cooling. A solution of 10.0 g (38.4 mmol) of (6-fluoro-3-pentylchroman-7-yl)methanol in 20 ml of acetonitrile is subsequently added, and the mixture is stirred overnight at room temp. After addition of water, the mixture is extracted three times with n-heptane, and the combined org. phases are washed with water and dried over sodium sulfate. The solvent is removed in vacuo, and the residue is filtered through silica gel with heptane/toluene (4:1), giving 7-bromomethyl-6-fluoro-3-pentylchroman as a colourless oil.

reactant | triphenylphosphine | 38.9 mmol, 10.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromine | 39.0 mmol, 2.0 ml | BrBr | Br2
reactant | (6-fluoro-3-pentylchroman-7-yl)methanol | 38.4 mmol, 10.0 g | FC=1C=C2CC(COC2=CC1CO)CCCCC | C15H21FO2
reactant | water | O | H2O
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 7-bromomethyl-6-fluoro-3-pentylchroman | BrCC1=C(C=C2CC(COC2=C1)CCCCC)F | C15H20BrFO
